US09024035B2
Dissolve 5.0 mL (55.0 mmol) methyl thioglycolate and 14.3 g (55.0 mmol) triphenylmethanol in 80 mL trichloromethane. Then slowly drop 6.9 mL (55.0 mmol) boron trifluoride ethyl ether complex into the solution and stir the solution at room temperature. Use thin layer chromatography (TLC)(chloroform:hexane=1:1) to follow the reaction. After starting material disappeared completely, wash the reaction solution with water (2×100 mL). The organic phase is dried by anhydrous sodium sulfate and then the solvent is removed by vacuum evaporation to get 18.6 g (97.5%) triphenylmethyl thioglycolic acid methyl ester (hereafter referred to as compound 1).

reactant | methyl thioglycolate | 55.0 mmol, 5.0 mL | C(CS)(=O)OC | C3H6O2S
reactant | triphenylmethanol | 55.0 mmol, 14.3 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | hexane | CCCCCC | C6H14
solvent | trichloromethane | 80 mL | ClC(Cl)Cl | CHCl3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | triphenylmethyl thioglycolic acid methyl ester | 18.6 g, 97.5% | COC(C(S)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H20O2S
